US08404672B2
6-B. Ethyl 4-propyl-3-(pyridin-2-yl)isoxazole-5-carboxylate
To a light orange, homogeneous mixture of (Z)—N-hydroxypicolinimidoyl chloride (0.637 g, 4.07 mmol) and ethyl 2-bromohex-2-enoate (0.900 g, 4.07 mmol) in dichloromethane (17 mL) and N,N-dimethylformamide (1 mL) at room temperature was added triethylamine (1.70 mL, 12.2 mmol) slowly over 5 min. The homogeneous reaction mixture was stirred at room temperature over the weekend. The solvent was removed under reduced pressure, and the residue was diluted with ether (100 mL), washed with water (3×75 mL), washed with a saturated aqueous solution of lithium chloride (1×75 mL), and dried over anhydrous sodium sulfate. Concentration under reduced pressure followed by trituration with hexane, with sonication, afforded a reddish solid and the hexane filtrate containing the desired product and remaining ethyl 2-bromohex-2-enoate. Concentration under reduced pressure followed by purification by flash silica gel chromatography using a mixture of ethyl acetate and hexane (0:100-0.5:99.5-1:99) afforded ethyl 4-propyl-3-(pyridin-2-yl)isoxazole-5-carboxylate (0.015 g, 0.058 mmol, 1.5% yield) as a white solid. The compound was had an HPLC ret. time=2.61 min.—Column: CHROMOLITH® SpeedROD 4.6×50 mm (4 min.); Solvent A=10% MeOH, 90% H2O, 0.1% TFA; Solvent B=90% MeOH, 10% H2O, 0.1% TFA. LC/MS M+1=261.0. 1H NMR (500 MHz, CDCl3) δ ppm 0.92 (t, J=7.42 Hz, 3H), 1.45 (t, J=7.15 Hz, 3H), 1.55-1.64 (m, 2H), 3.11-3.17 (m, 2H), 4.47 (q, J=7.15 Hz, 2H), 7.37 (dd, J=7.70, 4.95 Hz, 1H), 7.81 (td, J=7.70, 2.20 Hz, 1H), 7.98 (d, J=7.70 Hz, 1H), and 8.72 (d, 1H).

reactant | (Z)—N-hydroxypicolinimidoyl chloride | 4.07 mmol, 0.637 g | O\N=C(\C1=NC=CC=C1)/Cl | C6H5ClN2O
reactant | ethyl 2-bromohex-2-enoate | 4.07 mmol, 0.900 g | BrC(C(=O)OCC)=CCCC | C8H13BrO2
reactant | triethylamine | 12.2 mmol, 1.70 mL | C(C)N(CC)CC | C6H15N
reactant | hexane | CCCCCC | C6H14
solvent | dichloromethane | 17 mL | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | Ethyl 4-propyl-3-(pyridin-2-yl)isoxazole-5-carboxylate | C(CC)C=1C(=NOC1C(=O)OCC)C1=NC=CC=C1 | C14H16N2O3
